US04153607
55.5 parts of 2-ethylmercapto-4-amino-5-cyano-thiazole are reacted with 20 parts of hydrogen sulfide as described in Example 1(a). 32.1 parts of 2-ethylmercapto-4-amino-5-thiocarbamoylthiazole (49% of theory) of melting point 180°-183° C. are obtained.

reactant | 2-ethylmercapto-4-amino-5-cyano-thiazole | C(C)SC=1SC(=C(N1)N)C#N | C6H7N3S2
reactant | hydrogen sulfide | S | H2S
product | 2-ethylmercapto-4-amino-5-thiocarbamoylthiazole | 49% | C(C)SC=1SC(=C(N1)N)C(N)=S | C6H9N3S3
